US03946000
A mixture of 6-chloro-2,3-dihydro-s-triazolo[4,3-b]-pyridazin-3-one [P. Francavilla and F. Lauria, J. Het. Chem., 8, 415 (1971) ] (1.70 g., 0.01 mole) and potassium hydrosulfide (1.44 g., 0.02 mole) in ethanol (30 ml.) was heated in a sealed tube for 8 hours at 140°. After cooling, water (50 ml.) was added to the reaction mixture and a small amount of insoluble material was removed by filtration. The filtrate being concentrated under reduced pressure, the concentrate was acidified to pH 2 with dil. HCl to afford yellow precipitate of 6-mercapto-2,3-dihydro-s-triazolo[4,3-b]pyridazin-3-one which was collected by filtration, washed with water (10 ml.) and dried in vacuo on P2O5. Yield 1.43 g. (84%). M.p. > 300° C.

reactant | 6-chloro-2,3-dihydro-s-triazolo[4,3-b]-pyridazin-3-one | 0.01 mole, 1.70 g | ClC=1C=CC=2N(N1)C(NN2)=O | C5H3ClN4O
reactant | potassium hydrosulfide | 0.02 mole, 1.44 g | [SH-].[K+]
reactant | water | 50 ml | O | H2O
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 6-mercapto-2,3-dihydro-s-triazolo[4,3-b]pyridazin-3-one | SC=1C=CC=2N(N1)C(NN2)=O | C5H4N4OS
